US06482859B1
32.9 g of BOC-L-valine and 16.7 ml of N-methylmorpholine are dissolved in 350 ml of tetrahydrofuran and cooled to −20° C. 19.8 ml of isobutyl chloroformate are added dropwise to that solution over a period of 15 minutes. The mixture is stirred for 30 minutes, during which time the temperature rises to −7° C. The mixture is then cooled to −20° C., and 35.4 g of 2-(4-benzyloxy-3-methoxy-phenyl)-ethylamine in 50 ml of tetrahydrofuran are added dropwise over a period of 10 minutes. The reaction mixture is stirred for 30 minutes at −20° C. and then for 4 hours at room temperature. It is introduced into 300 ml of 1N hydrochloric acid. Extraction is carried out twice using 400 ml of ethyl acetate each time. The organic phases are washed once with 300 ml of 1N hydrochloric acid and once with 300 ml of saturated sodium chloride solution, dried over magnesium chloride and concentrated, yielding (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide, which is recrystallised from ethyl acetate/n-hexane, m.p. 115-118° C.

reactant | BOC-L-valine | 32.9 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | N-methylmorpholine | 16.7 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 19.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(4-benzyloxy-3-methoxy-phenyl)-ethylamine | 35.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN)OC | C16H19NO2
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)OC | C26H36N2O5
